US08912186B2
The solution of commercial 2,4-dichloro-6-nitroaniline (621 mg) and 3-(4-chlorophenyl)glutaric anhydride (674 mg) in 1,4-dioxane (2 ml) was heated to reflux shortly and stirred at rt for 1 h. The solvent was removed by distillation and the residue dried in vacuo. The oily residue was dissolved in acetic acid (6 ml) and heated to reflux. Iron powder (1.01 g) was added and the mixture stirred under reflux for 1 h. Then conc. HCl (6 ml) was added cautiously and the green-yellow solution was refluxed for additional 2 h. All volatiles were removed at the water aspirator and the residue precipitated from acetic acid/conc. HCl solution with water. The solid was collected by suction filtration and washed well with 1M HCl and water. The crude was recrystallised from acetic acid to give 4-(5,7-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl (325 mg) as colourless crystals.

reactant | 2,4-dichloro-6-nitroaniline | 621 mg | ClC1=C(N)C(=CC(=C1)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | 3-(4-chlorophenyl)glutaric anhydride | 674 mg | ClC1=CC=C(C=C1)C1CC(=O)OC(C1)=O | C11H9ClO3
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-(5,7-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl | 325 mg | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C(=C1)Cl.Cl | InChI=1S/C17H13Cl3N2O2.ClH/c18-11-3-1-9(2-4-11)10(6-16(23)24)5-15-21-14-8-12(19)7-13(20)17(14)22-15;/h1-4,7-8,10H,5-6H2,(H,21,22)(H,23,24);1H
